US08466167B2
Step 1: 3-chloro-5-(trifluoromethyl)picolinaldehyde oxime
A solution of 3-chloro-5-(trifluoromethyl)picolinaldehyde (1.0 eq.), hydroxylamine hydrochloride (5.0 eq.), and pyridine (4.0 eq.) in ethanol was heated to 95° C. and stirred for 1 hour. The reaction was cooled to room temperature and diluted with ethyl acetate and water. The organic layer was washed with brine, water, dried over anhydrous MgSO4, and concentrated en vacuo to give a solid that was carried onto the next step without further purification.

reactant | 3-chloro-5-(trifluoromethyl)picolinaldehyde | 1.0 eq. | ClC=1C(=NC=C(C1)C(F)(F)F)C=O | C7H3ClF3NO
reactant | hydroxylamine hydrochloride | 5.0 eq. | Cl.NO
reactant | pyridine | 4.0 eq. | N1=CC=CC=C1 | C5H5N
solvent | ethanol | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 3-chloro-5-(trifluoromethyl)picolinaldehyde oxime | ClC=1C(=NC=C(C1)C(F)(F)F)C=NO | C7H4ClF3N2O
